US07141596B2
Step 8. (2S)-2-[(tert-Butoxycarbonyl)amino]-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorophenyl]propanoic acid
Methyl (2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorophenyl]-propanoate trifluoroacetate (558 mg, 1.26 mmol) in methylene chloride (50 mL) was treated with di-tert-butyldicarbonate (548 mg, 2.51 mmol) and triethylamine (0.875 mL, 6.28 mmol). The solution stirred at rt for 2 h. The solution was concentrated in vacuo, diluted with methanol (8.0 mL), and then treated with 2 M lithium hydroxide in water (1.50 mL). After 2 h the solution was acidified using 1 N aqueous hydrochloric acid solution (2 mL), and the solution was directly purified by preparative LCMS to afford product as a white solid (507 mg, 97%). 1H NMR (400 MHz, CD3OD): δ 7.47–7.42 (m, 1H), 7.18–7.11 (m, 2H), 5.39–5.35 (m, 1H), 4.39–4.35 (m, 1H), 3.35–3.28 (m, 2H), 3.25–3.20 (m, 1H), 2.97–2.91 (m, 1H), 1.35 (s, 9H). LCMS found for C17H22FN2NaO7S (M+Na)+: m/z=439.

reactant | Methyl (2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorophenyl]-propanoate trifluoroacetate | 1.26 mmol, 558 mg | FC(C(=O)O)(F)F.N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)F
reactant | di-tert-butyldicarbonate | 2.51 mmol, 548 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.28 mmol, 0.875 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-[(tert-Butoxycarbonyl)amino]-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorophenyl]propanoic acid | 507 mg, 97% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)F | C17H21FN2O7S
